US06455725B1
It is furthermore known from J. Pharm. Sci. 67(1) 1978, 81, to prepare the chloro-substituted indanonecarboxylic acid ester 5-chloro-2-methoxycarbonyl-1-indanone starting from 3-chlorobenzaldehyde. Here, 3-chlorobenzaldehyde is initially reacted in pyridine with malonic acid to give 3-chlorocinnamic acid. Following hydrogenation of the ethylenic double bond and cyclization to the 5-chloro-1-indanone, the latter is then reacted with dimethyl carbonate in the presence of sodium hydride and benzene as solvent to give 5-chloro-2-methoxycarbonyl-1-indanone. This synthesis method has the disadvantage of the multistep mechanism which considerably increases the likelihood of the formation of various by-products, which is reflected in only a low yield of 48%. Additionally, the total reaction requires the repeated use of substances such as sodium hydride and benzene, which are expensive, problematic with respect to safety or hazardous to health.

reactant | 3-chlorobenzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-chlorocinnamic acid | ClC=1C=C(C=CC(=O)O)C=CC1 | C9H7ClO2
